US04929785
The procedure of Example I was repeated except that the reaction mass contained 150 ml water, 5.6 g iron (99.9+% pure), 0.2 g CuCl (99.9% pure), and 25.4 g benzyl chloride. The reaction period was for 3 hr. 13.0 g of crude diphenylethane product was obtained. This represents a 71.4% yield.

reactant | benzyl chloride | 25.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
catalyst | iron | 5.6 g | [Fe] | Fe
catalyst | CuCl | 0.2 g | Cl[Cu]
solvent | water | 150 ml | O | H2O
product | diphenylethane | 13.0 g, 71.4% yield | C1(=CC=CC=C1)C(C)C1=CC=CC=C1 | C14H14
